US07078570B2
2,6-Dimethyl-6-(3-methyl-but-2-enyl)-cyclohexa-2,4-dienone
A mixture of 2,6-dimethylphenol (5.00 g, 41.0 mmol), powdered KOH (85%, 1.5 eq., 4.05 g, 61.5 mmol), prenyl chloride (85%, 1.2 eq., 6.05 g, 49.2 mmol) and (NBu4)HSO4 (50 mg) in benzene (50 ml) was stirred at 0° C. for 3 h. The green suspension was then poured on ice and extracted with pentane. The organic phase was washed with aqueous NaOH (32%), water and brine, dried (MgSO4) and concentrated in vacuo at room temperature. The yellow crude dienone was ca. 85% pure and was converted without further purification. 1H-NMR (400 MHz, CDCl3): 6.81-6.79 (m, 1H), 6.20-10 (m, 2H), 4.92-4.88 (m, 1H, 2′-H), 2.51 (dd, J=13.9, 7.7 Hz, 1H, 1′-Ha), 2.17 (dd, J=13.9, 7.2 Hz, 1H, 1′-Hb), 1.86 (s, 3H), 1.62 (s, 3H), 1.57 (s, 3H), 1.17 (s, 3H, 6-CH3) ppm.

reactant | 2,6-dimethylphenol | 41.0 mmol, 5.00 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | KOH | 61.5 mmol, 4.05 g, 1.5 eq. | [OH-].[K+]
reactant | prenyl chloride | 49.2 mmol, 6.05 g, 1.2 eq. | C(C=C(C)C)Cl | C5H9Cl
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2,6-Dimethyl-6-(3-methyl-but-2-enyl)-cyclohexa-2,4-dienone | CC=1C(C(C=CC1)(CC=C(C)C)C)=O | C13H18O
